US04290947
t-butyldimethylchlorosilane (7.51 g, 49.8 mmol) is added in one portion to an ice-cold, stirring solution of (4S)-4-iodomethyl-azetidin-2-one (10.0 g, 47.4 mmol) and triethylamine (5.04 g, 49.8 mmol) in anhydrous dimethylformamide (100 ml). A voluminous white precipitate forms almost immediately. The reaction mixture is stirred at 0°-5° for 1 hour and then allowed to warm to room temperature. Most of the solvent is removed under vacuum to give a residue which is partitioned between diethyl ether (250 ml) and water. The ethereal phase is washed with 2.5 N hydrochloride acid (50 ml), water (3×50 ml), and brine, dried with magnesium sulfate, filtered, and evaporated under vacuum to provide (4S)-1-(t-butyldimethylsilyl)-4-iodomethyl-azetidin-2-one (15.1 g) as a white solid. Recrystallization from petroleum ether-ethyl ether gives the product as colorless plates, mp 71°-72°; n.m.r. (CDCl3), δ3.8 (m,1), δ2.6-3.6 (2 overlapping d of AB, 4) δ1.0 (S,9), δ0.3 (S,6), δ0.25 (S,6).

reactant | t-butyldimethylchlorosilane | 49.8 mmol, 7.51 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | (4S)-4-iodomethyl-azetidin-2-one | 47.4 mmol, 10.0 g | IC[C@@H]1CC(N1)=O | C4H6INO
reactant | triethylamine | 49.8 mmol, 5.04 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (4S)-1-(t-butyldimethylsilyl)-4-iodomethyl-azetidin-2-one | 15.1 g | [Si](C)(C)(C(C)(C)C)N1C(C[C@H]1CI)=O | C10H20INOSi
